US04782058
Triethylamine (254.9 g, 2.5 mol) was added with stirring to a solution of 1-phenyl-2-(3-methoxyphenyl)ethylamine hydrochloride (166.0 g, 0.63 mol) in chloroform (4 L) under nitrogen at 0° C. Then chloroacetyl chloride (142.2 g, 1.26 mol) was added dropwise over a period of 2 hrs. The resulting mixture was stirred at ambient temperature (about 25° C.) for 16 hrs, washed with 10% HCl (3×1 L) and water (1 L), and then the organic phase was dried over MgSO4. Evaporation of the solvent gave a dark oily residue which was dissolved in cyclohexane (2 L). Upon standing, the resulting solution gave solid crystals which were collected by filtration and dried to give 142.5 g of N-chloroacetyl-1-phenyl-2-(3-methoxyphenyl)ethylamine. A sample recrystallized twice from cyclohexane had a mp. 104°-105° C.

reactant | Triethylamine | 2.5 mol, 254.9 g | C(C)N(CC)CC | C6H15N
reactant | 1-phenyl-2-(3-methoxyphenyl)ethylamine hydrochloride | 0.63 mol, 166.0 g | Cl.C1(=CC=CC=C1)C(CC1=CC(=CC=C1)OC)N
reactant | chloroacetyl chloride | 1.26 mol, 142.2 g | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 4 L | C(Cl)(Cl)Cl | CHCl3
solvent | cyclohexane | 2 L | C1CCCCC1 | C6H12
product | N-chloroacetyl-1-phenyl-2-(3-methoxyphenyl)ethylamine | 142.5 g | ClCC(=O)NC(CC1=CC(=CC=C1)OC)C1=CC=CC=C1 | C17H18ClNO2
